US05202329
A solution was prepared by dissolving 15.7 g of 4,5,7-trichloroquinoline in 60 ml of dry dimethylimidazolidinone. To the solution, 10.4 g of 4,6-dimethyl-2-mercaptopyrimidine was added with stirring at the room temperature. The reaction was progressed with heat evolution and the temperature of the reaction mixture was increased to 50° C. Crystals were precipitated in the course of the reaction. After finishing the addition, stirring was continued for about 2 hours to complete the reaction. The reaction mixture was mixed with 300 ml of water. Precipitated crystals were filtered and recrystallized from acetone to obtain 20.8 g (91.9% yield) of 5,7-dichloro-4-(4,6-dimethyl-2-pyrimidinylthio)quinoline. Melting point was 182.0°-183.2° C.

reactant | 4,5,7-trichloroquinoline | 15.7 g | ClC1=CC=NC2=CC(=CC(=C12)Cl)Cl | C9H4Cl3N
reactant | 4,6-dimethyl-2-mercaptopyrimidine | 10.4 g | CC1=NC(=NC(=C1)C)S | C6H8N2S
reactant | water | 300 ml | O | H2O
solvent | dimethylimidazolidinone | 60 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 5,7-dichloro-4-(4,6-dimethyl-2-pyrimidinylthio)quinoline | 20.8 g, 91.9% yield | ClC1=C2C(=CC=NC2=CC(=C1)Cl)SC1=NC(=CC(=N1)C)C | C15H11Cl2N3S
